US04459414
4-(p-Toluylthio)-3,5,6-trichlorophthalic acid N-methylimide
2 g (6.7 millimols) of tetrachlorophthalic acid N-methylimide, 950 mg (6.9 millimols) of potassium carbonate, 120 mg (0.33 millimol) of hexadecyltrimethylammonium bromide, 20 ml of xylene and 0.86 ml of water are stirred vigorously at 100° C. and a solution of 860 mg (6.9 millimols) of p-thiocresol in 20 ml of xylene is added dropwise over a period of 10 minutes. After 30 minutes, the mixture is cooled, acidified with 2N HCl solution and extracted with methylene chloride. After drying over sodium sulfate, evaporation and recrystallisation from toluene/cyclohexane, 310 mg (12% of theory) of the title imide are obtained; melting point 209°-16° C.

reactant | tetrachlorophthalic acid N-methylimide | 6.7 millimols, 2 g | CN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C9H5Cl4NO3
reactant | potassium carbonate | 6.9 millimols, 950 mg | C([O-])([O-])=O.[K+].[K+]
reactant | p-thiocresol | 6.9 millimols, 860 mg | CC1=CC=C(C=C1)S | C7H8S
reactant | HCl | 2N | Cl | ClH
catalyst | hexadecyltrimethylammonium bromide | 0.33 millimol, 120 mg | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 0.86 ml | O | H2O
product | 4-(p-Toluylthio)-3,5,6-trichlorophthalic acid N-methylimide | CN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)SC1=CC=C(C=C1)C)Cl)O | C16H12Cl3NO3S
